US07479558B2
5-chloro-1-(2,6-difluorophenyl)-7-{[2-(dimethylamino)ethyl]amino}-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one)
To a solution of 5-chloro-1-(2,6-difluorophenyl)-7-(methylsulfinyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (800 mg, 2.23 mmol) in DCM (45 mL) were added N,N-dimethylethylenediamine (0.36 mL, 3.23 mmol) and triethylamine (0.63 mL, 4.5 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (730 mg, 85%). LC-MS m/z 383 (M+H)+.

reactant | 5-chloro-1-(2,6-difluorophenyl)-7-(methylsulfinyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 2.23 mmol, 800 mg | ClC1=C2C(=NC(=N1)S(=O)C)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4O2S
reactant | N,N-dimethylethylenediamine | 3.23 mmol, 0.36 mL | CN(CCN)C | C4H12N2
reactant | triethylamine | 4.5 mmol, 0.63 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-1-(2,6-difluorophenyl)-7-{[2-(dimethylamino)ethyl]amino}-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 730 mg, 85% | ClC1=C2C(=NC(=N1)NCCN(C)C)N(C(NC2)=O)C2=C(C=CC=C2F)F | C16H17ClF2N6O
